### PR TITLE
Fix unused simp lemma warnings

### PR DESCRIPTION
**Pull request by pirapira**
This PR is just about removing unused simp arguments.

### CODE REVIEW

File: Clean/Gadgets/Conditional.lean [hunk 1]
```diff
@@ -54,7 +54,7 @@ theorem soundness [DecidableEq F] : Soundness F (elaborated (F:=F) (M:=M)) Assum
   rcases input
   simp only [Inputs.mk.injEq] at h_input
   rcases h_input with ⟨h_selector, h_ifTrue, h_ifFalse⟩
-  simp only [Assumptions, Spec] at h_assumptions ⊢
+  simp at h_assumptions
```
Comment (mitschabaude) [inline Clean/Gadgets/Conditional.lean]: Intended to remove 'only'?

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 2]
```diff
@@ -54,7 +54,7 @@ def roundWithPermute : FormalCircuit (F p) Round.Inputs Round.Inputs where
     BLAKE3State.Normalized output.message
   soundness := by
     intro offset env input_var input h_eval h_assumptions h_holds
-    simp only [Circuit.ConstraintsHold.Soundness] at h_holds
+    simp at h_holds
```
Comment (mitschabaude) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: Intended to remove only?

**Review by mitschabaude — APPROVED** [review]

File: Clean/Gadgets/Conditional.lean (hunk 1 above)
Comment (pirapira) [reply Clean/Gadgets/Conditional.lean]: I've put back `only`.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 2 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: I've removed this line.
